reg
.lib '/class/ece482/gpdk045_mos' TT
.TEMP 25.0

** Library name: proj
** Cell name: register
** View name: schematic

mpm3 net4 x vdd vdd g45p1svt L=45e-9 W=960e-9 AD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1' AS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1'
+PD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*680e-9+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1' PS='960e-9/ceil(95.9995e-3)<119.5e-9?((580e-9+floor((ceil(95.9995e-3)-1)/2.0)*680e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(960e-9/ceil(95.9995e-3)))+floor((ceil(95.9995e-3)-1)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1'
+NRD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' NRS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' M=1
mpm2 q clk_bar net4 vdd g45p1svt L=45e-9 W=960e-9 AD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1' AS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1'
+PD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*680e-9+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1' PS='960e-9/ceil(95.9995e-3)<119.5e-9?((580e-9+floor((ceil(95.9995e-3)-1)/2.0)*680e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(960e-9/ceil(95.9995e-3)))+floor((ceil(95.9995e-3)-1)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1'
+NRD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' NRS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' M=1
mpm1 x clk net2 vdd g45p1svt L=45e-9 W=960e-9 AD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1' AS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1'
+PD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*680e-9+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1' PS='960e-9/ceil(95.9995e-3)<119.5e-9?((580e-9+floor((ceil(95.9995e-3)-1)/2.0)*680e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(960e-9/ceil(95.9995e-3)))+floor((ceil(95.9995e-3)-1)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1'
+NRD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' NRS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' M=1
mpm0 net2 d vdd vdd g45p1svt L=45e-9 W=960e-9 AD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1' AS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1'
+PD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*680e-9+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(95.9995e-3)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1' PS='960e-9/ceil(95.9995e-3)<119.5e-9?((580e-9+floor((ceil(95.9995e-3)-1)/2.0)*680e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(960e-9/ceil(95.9995e-3)))+floor((ceil(95.9995e-3)-1)/2.0)*(220e-9+2*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?280e-9+2*(960e-9/ceil(95.9995e-3)):0))/1'
+NRD='960e-9/ceil(95.9995e-3)<119.5e-9?(floor(ceil(95.9995e-3)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9)+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:((floor(ceil(95.9995e-3)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3)))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)!=0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' NRS='960e-9/ceil(95.9995e-3)<119.5e-9?(((14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9)+floor((ceil(95.9995e-3)-1)/2.0)*(14.4e-15+(960e-9/ceil(95.9995e-3))*100e-9))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?14.4e-15+(960e-9/ceil(95.9995e-3))*50e-9:0))/1:(((140e-9*(960e-9/ceil(95.9995e-3))+floor((ceil(95.9995e-3)-1)/2.0)*(110e-9*(960e-9/ceil(95.9995e-3))))+(ceil(95.9995e-3)/2-floor(ceil(95.9995e-3)/2)==0?140e-9*(960e-9/ceil(95.9995e-3)):0))/1)/((((960e-9/ceil(95.9995e-3))*ceil(95.9995e-3))*(960e-9/ceil(95.9995e-3)))*ceil(95.9995e-3))' M=1
mnm17 q rst vss vss g45n1svt L=45e-9 W=5.76e-6 AD='5.76e-6/ceil(575.9995e-3)<119.5e-9?(floor(ceil(575.9995e-3)/2.0)*(14.4e-15+(5.76e-6/ceil(575.9995e-3))*100e-9)+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)!=0?14.4e-15+(5.76e-6/ceil(575.9995e-3))*50e-9:0))/1:(floor(ceil(575.9995e-3)/2.0)*(110e-9*(5.76e-6/ceil(575.9995e-3)))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)!=0?140e-9*(5.76e-6/ceil(575.9995e-3)):0))/1' AS='5.76e-6/ceil(575.9995e-3)<119.5e-9?(((14.4e-15+(5.76e-6/ceil(575.9995e-3))*50e-9)+floor((ceil(575.9995e-3)-1)/2.0)*(14.4e-15+(5.76e-6/ceil(575.9995e-3))*100e-9))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)==0?14.4e-15+(5.76e-6/ceil(575.9995e-3))*50e-9:0))/1:((140e-9*(5.76e-6/ceil(575.9995e-3))+floor((ceil(575.9995e-3)-1)/2.0)*(110e-9*(5.76e-6/ceil(575.9995e-3))))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)==0?140e-9*(5.76e-6/ceil(575.9995e-3)):0))/1'
+PD='5.76e-6/ceil(575.9995e-3)<119.5e-9?(floor(ceil(575.9995e-3)/2.0)*680e-9+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(575.9995e-3)/2.0)*(220e-9+2*(5.76e-6/ceil(575.9995e-3)))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)!=0?280e-9+2*(5.76e-6/ceil(575.9995e-3)):0))/1' PS='5.76e-6/ceil(575.9995e-3)<119.5e-9?((580e-9+floor((ceil(575.9995e-3)-1)/2.0)*680e-9)+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(5.76e-6/ceil(575.9995e-3)))+floor((ceil(575.9995e-3)-1)/2.0)*(220e-9+2*(5.76e-6/ceil(575.9995e-3))))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)==0?280e-9+2*(5.76e-6/ceil(575.9995e-3)):0))/1'
+NRD='5.76e-6/ceil(575.9995e-3)<119.5e-9?(floor(ceil(575.9995e-3)/2.0)*(14.4e-15+(5.76e-6/ceil(575.9995e-3))*100e-9)+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)!=0?14.4e-15+(5.76e-6/ceil(575.9995e-3))*50e-9:0))/1:((floor(ceil(575.9995e-3)/2.0)*(110e-9*(5.76e-6/ceil(575.9995e-3)))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)!=0?140e-9*(5.76e-6/ceil(575.9995e-3)):0))/1)/((((5.76e-6/ceil(575.9995e-3))*ceil(575.9995e-3))*(5.76e-6/ceil(575.9995e-3)))*ceil(575.9995e-3))'
+NRS='5.76e-6/ceil(575.9995e-3)<119.5e-9?(((14.4e-15+(5.76e-6/ceil(575.9995e-3))*50e-9)+floor((ceil(575.9995e-3)-1)/2.0)*(14.4e-15+(5.76e-6/ceil(575.9995e-3))*100e-9))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)==0?14.4e-15+(5.76e-6/ceil(575.9995e-3))*50e-9:0))/1:(((140e-9*(5.76e-6/ceil(575.9995e-3))+floor((ceil(575.9995e-3)-1)/2.0)*(110e-9*(5.76e-6/ceil(575.9995e-3))))+(ceil(575.9995e-3)/2-floor(ceil(575.9995e-3)/2)==0?140e-9*(5.76e-6/ceil(575.9995e-3)):0))/1)/((((5.76e-6/ceil(575.9995e-3))*ceil(575.9995e-3))*(5.76e-6/ceil(575.9995e-3)))*ceil(575.9995e-3))' M=1
mnm3 net3 x vss vss g45n1svt L=45e-9 W=480e-9 AD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1' AS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1'
+PD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*680e-9+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1' PS='480e-9/ceil(47.9995e-3)<119.5e-9?((580e-9+floor((ceil(47.9995e-3)-1)/2.0)*680e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(480e-9/ceil(47.9995e-3)))+floor((ceil(47.9995e-3)-1)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1'
+NRD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' NRS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' M=1
mnm2 q clk net3 vss g45n1svt L=45e-9 W=480e-9 AD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1' AS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1'
+PD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*680e-9+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1' PS='480e-9/ceil(47.9995e-3)<119.5e-9?((580e-9+floor((ceil(47.9995e-3)-1)/2.0)*680e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(480e-9/ceil(47.9995e-3)))+floor((ceil(47.9995e-3)-1)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1'
+NRD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' NRS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' M=1
mnm1 net1 d vss vss g45n1svt L=45e-9 W=480e-9 AD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1' AS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1'
+PD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*680e-9+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1' PS='480e-9/ceil(47.9995e-3)<119.5e-9?((580e-9+floor((ceil(47.9995e-3)-1)/2.0)*680e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(480e-9/ceil(47.9995e-3)))+floor((ceil(47.9995e-3)-1)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1'
+NRD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' NRS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' M=1
mnm0 x clk_bar net1 vss g45n1svt L=45e-9 W=480e-9 AD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1' AS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1'
+PD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*680e-9+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?580e-9:0))/1:(floor(ceil(47.9995e-3)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1' PS='480e-9/ceil(47.9995e-3)<119.5e-9?((580e-9+floor((ceil(47.9995e-3)-1)/2.0)*680e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?580e-9:0))/1:(((280e-9+2*(480e-9/ceil(47.9995e-3)))+floor((ceil(47.9995e-3)-1)/2.0)*(220e-9+2*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?280e-9+2*(480e-9/ceil(47.9995e-3)):0))/1'
+NRD='480e-9/ceil(47.9995e-3)<119.5e-9?(floor(ceil(47.9995e-3)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9)+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:((floor(ceil(47.9995e-3)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3)))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)!=0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' NRS='480e-9/ceil(47.9995e-3)<119.5e-9?(((14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9)+floor((ceil(47.9995e-3)-1)/2.0)*(14.4e-15+(480e-9/ceil(47.9995e-3))*100e-9))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?14.4e-15+(480e-9/ceil(47.9995e-3))*50e-9:0))/1:(((140e-9*(480e-9/ceil(47.9995e-3))+floor((ceil(47.9995e-3)-1)/2.0)*(110e-9*(480e-9/ceil(47.9995e-3))))+(ceil(47.9995e-3)/2-floor(ceil(47.9995e-3)/2)==0?140e-9*(480e-9/ceil(47.9995e-3)):0))/1)/((((480e-9/ceil(47.9995e-3))*ceil(47.9995e-3))*(480e-9/ceil(47.9995e-3)))*ceil(47.9995e-3))' M=1
c11 rst vss 2e-15
c5 clk vss 2e-15
c4 clk_bar vss 2e-15
c3 clk vss 2e-15
c2 clk_bar vss 2e-15
c1 x vss 2e-15
c0 d vss 2e-15
v1 vss 0 DC=0
v0 vdd vss DC=1.1
*v4 d vss PULSE 0 1.1 10e-12 500e-15 1e-12
*v3 clk_bar vss PULSE 1.1 0 5e-12 10e-12 10e-12 208e-15 416e-15
*v2 clk vss PULSE 0 1.1 5e-12 10e-12 10e-12 208e-15 416e-15
vclk clk 0 pulse (0 1.1 5ps 5ps 5ps .208ns .416ns)
vclk_bar clk_bar 0 pulse (1.1 0 5ps 5ps 5ps .208ns .416ns)
VD d 0 pulse (0 1.1 15ps 15ps 15ps 1ns 2ns)
vrst rst 0  pulse (1.1 0  5ps 5ps 5ps 2.5ns 5ns)
.tran 0 10ns
.option post
.END

